US05998436
Synthesis of 2-amino-3,5-difluoro-6-methoxypyridine
To 1 ml of methanol were added 500 mg of 2-amino-3,5,6-trifluoropyridine together with 800 mg of 28% sodium methoxide/methanol solution, and the mixture was stirred at 70° C. for 3 and half hours, and allowed to cool. After adding 25 ml of chloroform, the mixture was washed with 5 ml of distilled water. The chloroform layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain the title product.

reactant | methanol | 1 ml | CO | CH4O
reactant | 2-amino-3,5,6-trifluoropyridine | 500 mg | NC1=NC(=C(C=C1F)F)F | C5H3F3N2
reactant | sodium methoxide methanol | 800 mg | C[O-].[Na+].CO
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-3,5-difluoro-6-methoxypyridine | NC1=NC(=C(C=C1F)F)OC | C6H6F2N2O
